US04005208
Refluxing 1-allyl-3-aminopiperidine and 9-acetoxyxanthene in dry toluene for 24 hours and working up by the procedure of Example 1 gives N-(N-allyl-3-piperidinyl)-9-xanthenylamine.

reactant | 1-allyl-3-aminopiperidine | C(C=C)N1CC(CCC1)N | C8H16N2
reactant | 9-acetoxyxanthene | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(N-allyl-3-piperidinyl)-9-xanthenylamine | C(C=C)N1CC(CCC1)NC1C2=CC=CC=C2OC=2C=CC=CC12 | C21H24N2O
